US06930104B2
Ethyl 5-[[1-[1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl]-1,2,3,4-tetrahydro-6-quinolinyl]oxy]pentanoate
Starting with cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol (1.0 g, 3.05 mmol) prepared in Reference Example 1 and ethyl 5-[(1,2,3,4-tetrahydro-6-quinolinyl)oxy]pentanoate (487 mg, 3.66 mmol), the same procedure as shown in Example 1 was repeated to give the titled compound (760 mg, yield: 42%) as a colorless oil. (cis:trans=1:1.2)

reactant | cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol | 3.05 mmol, 1.0 g | COC=1C=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)O)C)C=CC1OC | C19H21NO4
reactant | ethyl 5-[(1,2,3,4-tetrahydro-6-quinolinyl)oxy]pentanoate | 3.66 mmol, 487 mg | N1CCCC2=CC(=CC=C12)OCCCCC(=O)OCC | C16H23NO3
product | Ethyl 5-[[1-[1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl]-1,2,3,4-tetrahydro-6-quinolinyl]oxy]pentanoate | 760 mg, yield: 42% | COC=1C=C(C(=O)N2C(CC(C3=CC=CC=C23)N2CCCC3=CC(=CC=C23)OCCCCC(=O)OCC)C)C=CC1OC | C35H42N2O6
